datasets/RMG-dataset.csv
rxn,Ea
[O:0][O:1].[S:2][H:3]>>[O:0]([O:1])[H:3].[S:2],154.443992
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([H:16])[H:17])[H:9])([H:7])[H:8],96.1065
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][O:7],-3.740496
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18],85.772
[c:0]1([H:12])[c:1]([H:13])[c:2]([H:14])[c:3](-[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]2[H:19])[c:10]([H:20])[c:11]1[H:21]>>[H:13].[c:0]1([H:12])[c:1][c:2]([H:14])[c:3](-[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]2[H:19])[c:10]([H:20])[c:11]1[H:21],476.419
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:8],53.2205
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[O:4])[H:12])([H:5])([H:6])[H:7].[H:8][O:13][H:14],-3.267704
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:28])([H:29])[H:30])([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:27])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:28])([H:29])[H:30])[c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])([H:24])([H:25])[H:26],55.6472
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])([H:4])[H:5],78.199
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:8][H:26],28.267104
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5](=[O:6])[O:7][O:8])([H:9])([H:10])[H:11]>>[C:0](=[O:1])[H:3].[H:2][O:8][O:7][C:5]([C:4]([H:9])([H:10])[H:11])=[O:6],48.78544
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])([H:5])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16],45.6056
[C:0]([H:1])([H:2])[H:3].[C:4](=[C:5]([C:6]([H:9])([H:10])[H:11])[H:8])[H:7]>>[C:0]([H:1])([H:2])([H:3])[H:8].[C:4](#[C:5][C:6]([H:9])([H:10])[H:11])[H:7],0.0
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([S:7])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[S:7][C:6]([H:8])([H:9])[H:10],52.7184
[C:0]([O:1][O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[H:10]>>[C:0]([O:1][H:10])([H:4])([H:5])[H:6].[O:2][C:3]([H:7])([H:8])[H:9],26.5261
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25],-21.3384
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])[H:8])([H:5])([H:6])[H:7],6.31784
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])([H:4])[H:5],74.1405
